US05346880
To a methanol solution of 2-(4,6-dimethoxy-2-pyrimidinylthio)-methyl butyraldehyde (1.5 g) was added sodium boron hydride (0.2 g), followed by a five-minute stirring at room temperature. Water was then added to the reaction liquid, followed by extraction with ethyl acetate, water-washing of the resulting organic layer and drying thereof in that order. After the removal of the drying agent from the reaction product under filtration, followed by separation of ethyl acetate under reduced pressure distillation, there was obtained an oily substance that was then purified by silica gel column chromatography to obtain the desired 2-(4,6-dimethoxy-2-pyrimidinylthio)-3-methylbutanol (1.3 g) n20D 1.5445.

reactant | methanol | CO | CH4O
reactant | 2-(4,6-dimethoxy-2-pyrimidinylthio)-methyl butyraldehyde | 1.5 g | COC1=NC(=NC(=C1)OC)SC(C=O)(CC)C | C11H16N2O3S
reactant | sodium boron hydride | 0.2 g | B.[Na]
solvent | Water | O | H2O
product | 2-(4,6-dimethoxy-2-pyrimidinylthio)-3-methylbutanol | 1.3 g | COC1=NC(=NC(=C1)OC)SC(CO)C(C)C | C11H18N2O3S
